US04806538
To a solution of hydrochloric acid salt of N-[(2R,3R)-2-amino-3-(1-naphthyl)butyryl]-D-methionine ethyl ester (1.60 g) in ethanol (30 ml) was added a saturated solution of ammonia in ethanol (30 ml) and the mixture was set aside overnight at ambient temperature, and precipitated mass was collected, washed with ethanol, and dried to give (3R,6R)-3-(2-methylthioethyl)-6-[(R)-1-(1-naphthyl)ethyl]piperazine-2,5-dione (0.68 g).

reactant | hydrochloric acid | Cl | ClH
reactant | N-[(2R,3R)-2-amino-3-(1-naphthyl)butyryl]-D-methionine ethyl ester | 1.60 g | C(C)OC([C@H](NC([C@@H]([C@H](C)C1=CC=CC2=CC=CC=C12)N)=O)CCSC)=O | C21H28N2O3S
reactant | ammonia | N | H3N
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (3R,6R)-3-(2-methylthioethyl)-6-[(R)-1-(1-naphthyl)ethyl]piperazine-2,5-dione | 0.68 g | CSCC[C@@H]1C(N[C@@H](C(N1)=O)[C@H](C)C1=CC=CC2=CC=CC=C12)=O | C19H22N2O2S
